US05521202
Synthesis of 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxyaniline [88]
To a solution of 4.64 g of 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxynitrobenzene in 50 ml of 1,4-dioxane and 150 ml of N,N-dimethylformamide, 0.47 g of 10% palladium carbon was added, followed by stirring for 2.5 hours at room temperature and 5 atm. pressure under a hydrogen stream. The reaction mixture was filtered and the filtrate was then concentrated under reduced pressure. Methanol was added to the residue and the crystals so precipitated were collected by filtration, whereby 3.41 g of the title compound were obtained (yield: 81%).

reactant | 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxynitrobenzene | 4.64 g | N1=C(C=CC=C1)N1C(OC(C1)COC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H13N3O5
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
catalyst | palladium carbon | 0.47 g | [C].[Pd]
product | 4-[3-(2-pyridyl)-2-oxooxazolidin-5-yl]methoxyaniline | 3.41 g, yield: 81% | N1=C(C=CC=C1)N1C(OC(C1)COC1=CC=C(N)C=C1)=O | C15H15N3O3
